US08383821B2
(±)-3′-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
To a suspension of (±)-3′-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (15 mg, 0.032 mmol) and sodium cyanoborohydride (10.2 mg, 0.16 mmol) in acetonitrile (1 mL) at 0° C. was added formalin (0.1 mL, 3.6 mmol). The ice bath was removed and stirring continued for 1 h. The reaction was concentrated and loaded onto an SCX cartridge in methanol. The cartridge was flushed with several volumes of methanol which was discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 13 mg (84%) as a colorless film. 1H NMR (500 MHz, CDCl3) δ ppm 7.74 (m, 2H), 7.64 (s, 1H), 7.56 (m, 2H), 7.37 (s, 2H), 7.22-7.35 (m, 5H), 7.16 (m, 1H), 4.29 (q, J=6.4 Hz, 1H), 3.32 (d, J=8.9 Hz, 1H), 3.25 (d, J=8.9 Hz, 1H), 2.61 (m, 2H), 2.11-2.35 (m, 7H), 1.95-2.10 (m, 2H), 1.34 (m, 3H). Mass spec.: 479.30 (MH)+. Accurate mass spec.: m/z 479.2300 [MH]+, Δ=2.1 ppm.

reactant | (±)-3′-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 0.032 mmol, 15 mg | C1(=CC=CC=C1)C1(CCNCC1)COC(C)C=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C28H27F3N2O
reactant | sodium cyanoborohydride | 0.16 mmol, 10.2 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 3.6 mmol, 0.1 mL | C=O | CH2O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (±)-3′-(1-((1-Methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | CN1CCC(CC1)(C1=CC=CC=C1)COC(C)C=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C29H29F3N2O
